US20010006973A1
2-(2,6-Dioxo(3-piperidyl))-4-chloroisoindoline-1,3-dione was prepared by the procedure of Example 1 from 3-chlorophthalic anhydride (0.40 g, 2.2 mmol), 3-aminopiperidine-2,6-dione hydrogen chloride (0.36 g, 2.2 mmol) and sodium acetate (0.19 g, 2.4 mmol) in acetic acid (10 mL). The product was a white solid (0.44 g, 69% yield); mp, 290.0-291.5° C.; 1H NMR (DMSO-d6) δ2.05-2.11 (m, 1H, CHH), 2.49-2.64 (m, 2H, CH2), 2.64-2.92 (m, 1H, CHH), 5.17 (dd, J=5.2, 12.7 Hz, 1H, NCH), 7.86-7.94 (m, 3H, Ar), 11.17 (br s, 1H, NH); 13C NMR (DMSO-d6) δ21.83, 30.91, 49.12, 122.41, 126.94, 129.84, 133.52, 136.11, 136.39, 164.77, 165.76, 169.73, 172.77; Anal Calcd for C13H9N2O4Cl: C, 53.35; H, 3.10; N, 9.57; Cl, 12.11. Found: C, 53.37; H, 2.94; N, 9.30, Cl, 11.97.

reactant | 3-chlorophthalic anhydride | 2.2 mmol, 0.40 g | ClC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3ClO3
reactant | 3-aminopiperidine-2,6-dione hydrogen chloride | 2.2 mmol, 0.36 g | Cl.NC1C(NC(CC1)=O)=O
reactant | sodium acetate | 2.4 mmol, 0.19 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 2-(2,6-Dioxo(3-piperidyl))-4-chloroisoindoline-1,3-dione | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)Cl)=O)=O | C13H9ClN2O4
